US08193228B2
Potassium carbonate (1.1 g, 7.7 mmol) was added to an ambient temperature solution of N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-N-methyl-4-nitrobenzenesulfonamide (2.5 g, 3.1 mmol) and benzenethiol (0.64 mL, 6.2 mmol) in N,N-dimethylformamide (20 mL). After stirring at 50° C. for 3 h, then at 70° C. for a further 3 h, the reaction mixture was cooled and partitioned between diethyl ether and saturated aqueous sodium bicarbonate. The organic phase was dried (magnesium sulfate) and concentrated. Chromatography over silica eluting with 0-100% ethyl acetate (containing 5% 2 M ammonia in methanol)/hexane afforded 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine.

reactant | Potassium carbonate | 7.7 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-N-methyl-4-nitrobenzenesulfonamide | 3.1 mmol, 2.5 g | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)(CC)C | C48H46FN5O4S
reactant | benzenethiol | 6.2 mmol, 0.64 mL | C1(=CC=CC=C1)S | C6H6S
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(NC)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C42H43FN4
